US06133266
(-)-(R)-2-(2,2-Dimethylbenzo[1,2-d]-1,3-dioxan-6-yl)2-hydroxyacetic acid (130 mg), 148 mg of (S)-2-amino-7-hydroxytetralin hydrobromide and 243 mg of benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate were dissolved in 1.4 ml of N,N-dimethylformamide, 0.15 ml of triethylamine was added to the solution with stirring under ice-cooling, and the mixture was subjected to 15 hours of reaction. Water was added to the reaction solution and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified by aminopropylated silica gel medium pressure liquid column chromatography (eluent: ethyl acetate/acetone=4/1) and then recrystallized from ethyl acetate to give 186 mg of (-)-(2R)-2-(2,2-dimethylbenzo[1,2-d]-1,3-dioxan-6-yl)-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide having a melting point of 169 to 170° C.

reactant | (-)-(R)-2-(2,2-Dimethylbenzo[1,2-d]-1,3-dioxan-6-yl)2-hydroxyacetic acid | 130 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@H](C(=O)O)O)C | C12H14O5
reactant | (S)-2-amino-7-hydroxytetralin hydrobromide | 148 mg | Br.N[C@@H]1CC2=CC(=CC=C2CC1)O
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 243 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1.4 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | (-)-(2R)-2-(2,2-dimethylbenzo[1,2-d]-1,3-dioxan-6-yl)-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide | 186 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@H](C(=O)N[C@@H]2CC1=CC(=CC=C1CC2)O)O)C | C22H25NO5
